US05753657
The procedure is performed as in Example 21, but starting with 0.7 g of 10-(2-pyridylmethylene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 200 ml of dimethylformamide, 5 ml of acetic acid and 70 mg of 10% palladium on charcoal. The crude product (1.1 g) is purified by trituration in a mixture of 10 ml of dichloromethane and 40 ml of ethyl ether, followed by crystallization in 25 ml of dimethylformamide and 40 ml of water. 0.35 g of 10-(2-pyridylmethyl)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one is obtained, in the form of a light beige solid melting above 260° C. (Analysis % calculated C: 72.60, H: 4.49, N: 17.82, O: 5.09, % found C: 72.5, H: 4.6, N: 17.9, O: 5.5).

reactant | 10-(2-pyridylmethylene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.7 g | N1=C(C=CC=C1)C=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C19H12N4O
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 70 mg | [Pd] | Pd
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 10-(2-pyridylmethyl)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.35 g | N1=C(C=CC=C1)CC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C19H14N4O
